US08211919B2
To a solution of ethyl bromo(phenyl)acetate (5.0 g) in ethanol (20 mL) was added 4-piperidinol (5.05 g) and the mixture was stirred at 60° C. for 4 hours. The mixture was poured into dilute sodium bicarbonate aqueous solution and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethylacetate (3:7) to afford ethyl (4-hydroxypiperidin-1-yl)(phenyl)acetate (5.21 g) as a yellow oil.

reactant | ethyl bromo(phenyl)acetate | 5.0 g | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
reactant | 4-piperidinol | 5.05 g | N1CCC(CC1)O | C5H11NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | ethyl (4-hydroxypiperidin-1-yl)(phenyl)acetate | 5.21 g | OC1CCN(CC1)C(C(=O)OCC)C1=CC=CC=C1 | C15H21NO3
